US04889855
6-Amino-7,8,9,10-tetrahydro-2,3-dihydroxybenzo(f)quinoxaline
A solution of 7,8,9,10-tetrahydro-2,3-dihydroxy-6-nitrobenzo(f)quinoxaline (1.5 g, 5.7 mmol) in 50 ml of N,N-dimethylformamide was hydrogenated at atmospheric pressure and room temperature in the presence of 5% palladium-on-charcoal. The catalyst was filtered off, and the filtrate was evaporated to dryness. The residue was triturated with water, the solid was collected and washed with water, and ethanol affording 1.2 g (90%) of the amino compound.

reactant | 7,8,9,10-tetrahydro-2,3-dihydroxy-6-nitrobenzo(f)quinoxaline | 5.7 mmol, 1.5 g | OC=1C(=NC=2C=C(C3=C(C2N1)CCCC3)[N+](=O)[O-])O | C12H11N3O4
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
catalyst | palladium-on-charcoal | [Pd] | Pd
product | 6-Amino-7,8,9,10-tetrahydro-2,3-dihydroxybenzo(f)quinoxaline | NC=1C2=C(C=3N=C(C(=NC3C1)O)O)CCCC2 | C12H13N3O2
